US06884801B1
3-Dimethylamino-2-(2-nitrophenyl)propenal (Maybridge) in ethanol was treated with hydrazine via syringe and heated to reflux for 16 hours. Concentration in vacuo afforded crude 4-(2-nitrophenyl)pyrazole, which was reduced as in Example 64 and coupled with CMI to give the fumaric acid salt of N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(1H-pyrazol-4-yl)aniline.

reactant | 3-Dimethylamino-2-(2-nitrophenyl)propenal | CN(C=C(C=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-nitrophenyl)pyrazole | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=NNC1 | C9H7N3O2
